US08604029B2
To a stirred solution of 50% sodium hydride (200 mg, 4 mmol) in DMF (5 mL) at 0° C. was added a solution of 1-(3-chloro-propoxy)-2-methyl-4-nitro-benzene (700 mg, 3 mmol) in dry DMF (3 mL). To this was added a solution of 2-isopropyl imidazole (300 mg, 3 mmol) in DMF (4 mL). The mixture was allowed to warm to r.t. and stirred for 5 hours. The mixture was poured into ice-water and extracted with ethyl acetate. The organic phase was washed with water and brine then dried over sodium sulfate. Concentration in vacuo gave a residue which was purified by column chromatography on silica gel, eluting with 20% methanol in chloroform to afford 2-isopropyl-1-[3-(2-methyl-4-nitro-phenoxy)-propyl]-1H imidazole (380 mg, 41%) as an oil.

reactant | sodium hydride | 4 mmol, 200 mg | [H-].[Na+]
reactant | 1-(3-chloro-propoxy)-2-methyl-4-nitro-benzene | 3 mmol, 700 mg | ClCCCOC1=C(C=C(C=C1)[N+](=O)[O-])C | C10H12ClNO3
reactant | 2-isopropyl imidazole | 3 mmol, 300 mg | C(C)(C)C=1NC=CN1 | C6H10N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-isopropyl-1-[3-(2-methyl-4-nitro-phenoxy)-propyl]-1H imidazole | 380 mg, 41% | C(C)(C)C=1N(C=CN1)CCCOC1=C(C=C(C=C1)[N+](=O)[O-])C | C16H21N3O3
